US04009187
A. 8-(2-furyl)-octanoic acid methyl ester
19 g of 8-(2-furyl)-octanoic acid were refluxed for 4 hours with 100 ml of methanol and 1.5 ml of sulphuric acid. The mixture was then evaporated to one third of its original volume. 100 g. of ice-water were then added, whereupon the mixture was extracted with ether.

reactant | 8-(2-furyl)-octanoic acid | 19 g | O1C(=CC=C1)CCCCCCCC(=O)O | C12H18O3
reactant | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 ml | CO | CH4O
product | 8-(2-furyl)-octanoic acid methyl ester | COC(CCCCCCCC=1OC=CC1)=O | C13H20O3
